US07498460B2
2-{3-[4-(1,1′-Biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid
3.10 g (6.28 mmol) of ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-formylbenzoate are introduced into 50 ml of THF. At about 0° C. (internal temperature), solutions of 2.13 g (18.8 nmol) of sodium chlorite in 2.5 ml of water and 1.83 g (18.8 mmol) of sulphamic acid in 9 ml of water are simultaneously added dropwise. The mixture is then stirred at 0° C. for 15 minutes. The reaction mixture is added to 120 ml of water and extracted with ethyl acetate (four times 60 ml). The combined organic phases are washed with saturated sodium chloride solution (twice 50 ml). A finely dispersed precipitate is evident in the organic phase. 300 ml of dichloromethane are added, and the solution is dried over sodium sulphate and concentrated. The resulting product (2.96 g) is reacted without further purification.

reactant | ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-formylbenzoate | 6.28 mmol, 3.10 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OCC)C=C1)C=O)C1=CC=CC=C1 | C32H30O5
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | sodium chlorite | 18.8 nmol, 2.13 g | Cl(=O)[O-].[Na+]
reactant | sulphamic acid | 18.8 mmol, 1.83 g | S(N)(O)(=O)=O | H3NO3S
solvent | water | 2.5 ml | O | H2O
solvent | water | 9 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | 2-{3-[4-(1,1′-Biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C(=O)O)C=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C32H30O6
